US04215044
Methyllithium in diethyl ether (0.25 mol, 140 ml of 1.8 M solution) was added dropwise to a solution of 27.6 g (0.27 mol) of diisopropylamine in 40 ml of diethyl ether. The reaction mixture was cooled to -78° C. and 26.3 g (0.16 mol) of ethyl phenylacetate were added dropwise. The reaction mixture was warmed to 0° C. and 46 ml (0.36 mol) of chlorotrimethylsilane were added rapidly. The reaction mixture was stirred overnight at 25° C., filtered to remove LiCl, and then distilled under reduced pressure to give 24.91 g (66% yield) of β-ethoxy-β-trimethylsiloxystyrene as a colorless liquid: bp 92° C. (0.7 mm); 1H NMR (CFCl3) δ 0.0 ppm (s, 9H), 0.94 ppm (t,J=7 Hz, 3H), 3.44 and 3.63 ppm (qs, J=7 Hz, 25:75, 2H), 4.17 and 4.36 ppm (ss, 25:75, 1H) and 6.57-7.20 ppm (m, 5H). Anal. Calcd. for C13H20O2Si: C, 66.05; H, 8.53; Found: C, 66.26; H, 8.88.

reactant | Methyllithium | C[Li]
reactant | diisopropylamine | 0.27 mol, 27.6 g | C(C)(C)NC(C)C | C6H15N
reactant | ethyl phenylacetate | 0.16 mol, 26.3 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | chlorotrimethylsilane | 0.36 mol, 46 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 0.25 mol, 1.8 M, 140 ml | C(C)OCC | C4H10O
product | β-ethoxy-β-trimethylsiloxystyrene | 24.91 g, 66% yield | C(C)OC(=CC1=CC=CC=C1)O[Si](C)(C)C | C13H20O2Si
